US08629137B2
Step 3: 5-bromo-7-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazole
1.95 mL (11.0 mmol) (2-chloromethoxy-ethyl)-trimethyl-silane were added to 2.11 g (10.0 mmol) 5-bromo-7-methyl-1H-indazole and 1.80 mL (12.3 mmol) N-methyldicyclohexylamine in 50 mL THF and stirred overnight at RT. The precipitate formed was filtered off and the filtrate was evaporated down. The residue was purified by flash chromatography.

reactant | (2-chloromethoxy-ethyl)-trimethyl-silane | 11.0 mmol, 1.95 mL | ClCOCC[Si](C)(C)C | C6H15ClOSi
reactant | 5-bromo-7-methyl-1H-indazole | 10.0 mmol, 2.11 g | BrC=1C=C2C=NNC2=C(C1)C | C8H7BrN2
reactant | N-methyldicyclohexylamine | 12.3 mmol, 1.80 mL | CN(C1CCCCC1)C1CCCCC1 | C13H25N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-bromo-7-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazole | BrC=1C=C2C=NN(C2=C(C1)C)COCC[Si](C)(C)C | C14H21BrN2OSi
